US06307087B1
Synthesis of 4-methoxybiphenyl via Suzuki Coupling
An oven dried resealable Schlenk tube was purged with argon and charged with palladium acetate (2.2 mg, 0.01 mmol, 0.5 mol %), ligand 2 [Example 1] (5.9 mg, 0.015 mmol, 0.75 mol %), phenylboron dihydroxide (366 mg, 3.0 mmol), and potassium phosphate (850 mg, 4.0 mmol). The tube was purged with argon, and dioxane (6 mL), and 4-chloroanisole (0.24 mL, 2.0 mmol) were added through a rubber septum. The septum was removed, the tube was sealed with a teflon screw cap and the mixture was stirred at room temperature for two minutes, then heated to 100° C. with stirring until the starting aryl chloride had been completely consumed as judged by GC analysis. The reaction mixture was then diluted with ether (40 mL) and poured into a separatory funnel. The mixture was washed with 1 M NaOH (40 mL), and the layers were separated. The aqueous layer was extracted with ether (40 mL), and the combined organic extracts were dried over anhydrous magnesium sulfate, filtered, and concentrated in vacuo. The crude material was then purified by flash chromatography on silica gel to give 347 mg (94%) of a white solid.

reactant | phenylboron dihydroxide | 3.0 mmol, 366 mg | [OH-].[OH-].C1(=CC=CC=C1)[B+2]
reactant | potassium phosphate | 4.0 mmol, 850 mg | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | 4-chloroanisole | 2.0 mmol, 0.24 mL | ClC1=CC=C(C=C1)OC | C7H7ClO
catalyst | palladium acetate | 0.01 mmol, 2.2 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
catalyst | 2,5,3′-Trimethylbiphenyl | 0.015 mmol, 5.9 mg | CC1=C(C=C(C=C1)C)C1=CC(=CC=C1)C | C15H16
solvent | dioxane | 6 mL | O1CCOCC1 | C4H8O2
product | 4-methoxybiphenyl | 347 mg, 94% | COC1=CC=C(C=C1)C1=CC=CC=C1 | C13H12O
